US04912100
To a solution of 20.0 g (0.16 mole) of 4-hydroxy-6-methyl-2-pyrone in 250 ml of methanol was added 1.0 g of 5% palladium on carbon as the hydrogenation catalyst. Hydrogenation was carried out at room temperature under a pressure of 20 kg/cm2 for 7 hours. The catalyst was removed by filtration and the solvent was removed by evaporation under a reduced pressure. The precipitated crystal was recovered by filtration and recrystallized from ethanol to obtain 14.8 g (yield: 73%) of 4-hydroxy-5,6-dihydro-6-methyl-2-pyrone in the form of a crystal, m.p. 103°-104° C.

reactant | 4-hydroxy-6-methyl-2-pyrone | 0.16 mole, 20.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 4-hydroxy-5,6-dihydro-6-methyl-2-pyrone | 14.8 g, yield: 73% | OC1=CC(OC(C1)C)=O | C6H8O3
